2142-02-22 07:24:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
   -on admission to [**Name (NI) 44**] pt found to be acedemic with ABG: 7.08/115/110.
   -Vent settings changed to increase the RR, and acidemia resolved.
   -Pt required large ammount of sedation on AC, so was changed to
   Pressure control.  On pressure control ABG continued to look good
   throughout the night, but by 4AM CO2 slowly creeped up to 50.
   - UOP adeuate with range 40 to 500 cc/hr and B remained stable
 ARTERIAL LINE - START [**2142-2-21**] 06:48 PM
 BLOOD CULTURED - At [**2142-2-21**] 07:15 PM
   Bld Cx x1 aline, Bld Cx x1venipuncture
 SPUTUM CULTURE - At [**2142-2-22**] 03:39 AM
   induced
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-21**] 08:00 PM
   Vancomycin - [**2142-2-21**] 09:00 PM
   Azithromycin - [**2142-2-21**] 10:00 PM
   Infusions:
   Fentanyl - 350 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-2-21**] 11:45 PM
   Fentanyl - [**2142-2-21**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 92 (78 - 95) bpm
   BP: 120/78(94){104/62(80) - 124/79(97)} mmHg
   RR: 13 (12 - 76) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,070 mL
                                                                    651 mL
   PO:
             TF:
   IVF:
                                                                    870 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    380 mL
   Urine:
                                                                  1,450 mL
                                                                    380 mL
   NG:
                                                                      0 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    271 mL
   Respiratory support
   Ventilator mode: PCV+Assist
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 32
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/50/104/30/4
   Ve: 9.2 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Well nourished, No acute distress, pregnant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   ETT sounds, Wheezes : Bil throughout)
   Abdominal: Soft, pregnant
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   229 K/uL
   9.9 g/dL
   98 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   9 mg/dL
   102 mEq/L
   141 mEq/L
   30.9 %
   17.7 K/uL
         [image002.jpg]
                             [**2142-2-21**]  07:11 PM
                             [**2142-2-21**]  07:33 PM
                             [**2142-2-21**]  08:50 PM
                             [**2142-2-21**]  10:56 PM
                             [**2142-2-22**]  12:41 AM
                             [**2142-2-22**]  01:30 AM
                             [**2142-2-22**]  02:02 AM
                             [**2142-2-22**]  03:26 AM
                             [**2142-2-22**]  04:27 AM
                             [**2142-2-22**]  04:45 AM
   WBC
   23.1
   17.7
   Hct
   31.8
   30.9
   Plt
   270
   229
   Cr
   0.7
   0.7
   TCO2
   35
   32
   30
   30
   28
   32
   31
   32
   Glucose
   120
   98
   Other labs: PT / PTT / INR:12.6/23.2/1.1, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, Mg++:2.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]):
   Etiology likely S. Pneumo PNA in pt with underlying asthma and smoking
   hx. Respiratory acidosis has resolved over night with altered vent
   settings.
   -          mech vent changed to PS.   Will monitor closely with serial
   ABG.  As pt tolerates, goal should be to decrease FiO2 to 40%, then if
   tolerated, to decrease PEEP.  If pH begins to decrease or pCO2 begins
   to rise may need to switch back to AC with higher RR, and may need
   greater sedation to achieve this.
   -          Change sedation to methadone gtt
   -          Continue vanc, ctx (at increased dose), azithro for S.
   Pneumo double coverage and to cover atypicals
   -          Monitor CXR daily
   -          Goal fluid status is even
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): S. pneumo antigen +
   at OSH.
   -          f/u micro data here and at OSH
   -          continue vanc, ctx, azithro
 ASTHMA: wheezes throughout night which responded to bronchodilators:
   -          continue bronchidilators (changed to standing)
   -          continue solumedrol
 [**Last Name 121**] PROBLEM
 Pregnancy: Pt more stabilized today, and fetal
   monitoring may now be indicated.  Ob following.
   - f/u Ob recs
   ICU Care
   Nutrition: F/U nutrition recs for tube feeds
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2142-2-21**] 05:43 PM
   Arterial Line - [**2142-2-21**] 06:48 PM
   Prophylaxis:
   DVT: heparin sc, p-boots
   Stress ulcer: PPI
   VAP:  vanc / ctx / azithro
   Comments:
   Communication:  Husband Comments:
   [**Name2 (NI) 66**] status: Full code
   Disposition: ICU for mangement of ARDS

2142-02-22 09:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, ARDS, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Respiratory acidosis improved with changes in ventilator strategy
   including higher PEEP and Pressure control ventilation. Maintained on
   VT=450. Urine output has been adequate. Oxygenation also improved with
   FIO2 now at 0.5 with good O2 sats.
   This AM, patient switched to pressure support ventilation.
   Has been stable hemodynamically. WBC improved.
   24 Hour Events:
 ARTERIAL LINE - START [**2142-2-21**] 06:48 PM
 BLOOD CULTURED - At [**2142-2-21**] 07:15 PM
   Bld Cx x1 aline, Bld Cx x1venipuncture
 SPUTUM CULTURE - At [**2142-2-22**] 03:39 AM
   induced
   History obtained from Medical records
   Patient unable to provide history: Intubated and ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-21**] 08:00 PM
   Azithromycin - [**2142-2-21**] 10:00 PM
   Vancomycin - [**2142-2-22**] 07:27 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Propofol - 75 mcg/Kg/min
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2142-2-21**] 11:45 PM
   Fentanyl - [**2142-2-21**] 11:45 PM
   Other medications:
   Heparin sc
   Colace
   Prednisone
   Protonix
   Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-22**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 89 (78 - 100) bpm
   BP: 120/77(93){104/62(80) - 124/86(97)} mmHg
   RR: 12 (11 - 76) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,070 mL
                                                                  1,019 mL
   PO:
             TF:
   IVF:
                                                                    870 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    460 mL
   Urine:
                                                                  1,450 mL
                                                                    460 mL
   NG:
                                                                      0 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    559 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (400 - 450) mL
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.35/53/121/30/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 242
   Physical Examination
     Patient intubated and sedated. OG tube in place. Gravid abdomen,
   soft, diminished bowel sounds. [**Last Name (un) 77**]. No icterus. Chest with good breath
   sounds. There are diffuse expiratory wheezes with I/E=[**2-2**] and with
   expiratory rhonchi. PMI diffuse. Heart sounds soft. No gallop or
   murmur. No rash. 1+ peripheral edema.
   Labs / Radiology
   9.9 g/dL
   229 K/uL
   98 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   9 mg/dL
   102 mEq/L
   141 mEq/L
   30.9 %
   17.7 K/uL
        [image002.jpg]
                             [**2142-2-21**]  07:33 PM
                             [**2142-2-21**]  08:50 PM
                             [**2142-2-21**]  10:56 PM
                             [**2142-2-22**]  12:41 AM
                             [**2142-2-22**]  01:30 AM
                             [**2142-2-22**]  02:02 AM
                             [**2142-2-22**]  03:26 AM
                             [**2142-2-22**]  04:27 AM
                             [**2142-2-22**]  04:45 AM
                             [**2142-2-22**]  08:11 AM
   WBC
   17.7
   Hct
   30.9
   Plt
   229
   Cr
   0.7
   TCO2
   35
   32
   30
   30
   28
   32
   31
   32
   30
   Glucose
   98
   Other labs: PT / PTT / INR:12.6/23.2/1.1, Differential-Neuts:81.0 %,
   Band:4.0 %, Lymph:5.0 %, Mono:6.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.2 mmol/L, Mg++:2.9 mg/dL, PO4:2.2 mg/dL.
   Bronch BAL
 gram stain negative, no eos (per [**Hospital3 118**])
   CXR: Borderline enlarged heart. Diffuse alveolar opacities somewhat
   improved compared to yesterday. No obvious effusions.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ASTHMA
   ANEMIA
   Patient significantly improved in past 12 hours. Now on CPAP=10.
   Patient is generating tidal volumes of 700 on these settings. With PEEP
   at 10, O2 sats are still 99%. Will need to watch this over the next 30
   minutes. If O2 sats hold in this range, would decrease PEEP to 8. Would
   then try to reduce FIO2 to 0.4 and see if saturations hold. CXR
   suggests we have recruited lung quite effectively; question is whether
   she will de-recruit with lowering of PEEP. Begin weaning propofol. Will
   continue to require narcotics to prevent withdrawal given prior
   methadone use.
   Maintain antibiotics for pneumococcal pneumonia.
   Patient continues to have significant bronchospasm on exam. Will
   maintain high dose steroids as well as inhaled bronchodilators.
   Hct down to 30 consistent with her pregnancy. No evidence of bleeding.
   Not at threshold for transfusion.
   ICU Care
   Nutrition:
   Glycemic Control:  sc insulin
   Lines:
   20 Gauge - [**2142-2-21**] 05:43 PM
   Arterial Line - [**2142-2-21**] 06:48 PM
   Prophylaxis:
   DVT:  - heparin sc
   Stress ulcer:  PPI
   VAP: per protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 minutes, patient is critically ill.

2142-02-23 07:07:00 Physician Resident Progress Note
Chief Complaint: ARDS
   24 Hour Events:
   IV methadone exchanged for fentanyl; propofol being weaned down; was to
   be tapered off early this am, but [**Name8 (MD) **] RN, pt bites vent tube and gets
   very agitated when propofol goes down lower than present dose,
   ?increase methadone vs d/c propofol and extubate (in holding pattern
   pending answer to this question); have gone down to 5/5, getting new
   gas (700am); holding tube feeds as of 0700 am to prep for possible
   extubation.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-22**] 07:30 PM
   Vancomycin - [**2142-2-22**] 08:30 PM
   Azithromycin - [**2142-2-22**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2142-2-22**] 10:10 PM
   Pantoprazole (Protonix) - [**2142-2-22**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 82 (77 - 100) bpm
   BP: 133/78(101){109/65(82) - 134/100(110)} mmHg
   RR: 11 (10 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  3,250 mL
                                                                    688 mL
   PO:
             TF:
                                                                    126 mL
                                                                    124 mL
   IVF:
                                                                  2,920 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,003 mL
                                                                    590 mL
   Urine:
                                                                  3,003 mL
                                                                    590 mL
   NG:
                                                                    205 mL
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                     98 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 773 (773 - 884) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 13 cmH2O
   SpO2: 96%
   ABG: 7.43/58/138/34/12
   Ve: 9.5 L/min
   PaO2 / FiO2: 345
   [image002.jpg]
   Physical Examination
   HEENT: MMM in limited exam
   Lungs: Moving air throughout, v loud ronchi and vent sounds obscuring
   rest of evaluation of lung sounds; estimate 1:3-1:4 I:E time on my exam
   Cardiac: RRR, poorly heard through upper airway/vent sounds
   Abdomen: Pregnant but soft, evidently non-tender; BS faintly +
   Extremities: Trace edema at ankles; warm and well-perfused
   Peripheral Vascular: (Right radial pulse: Not assessed-restraint+IV),
   (Left radial pulse: ++), (Right DP pulse: ++), (Left DP pulse: ++)
   Skin:  Warm; no rashes or petichiae in limited exam
   Neurologic: Sedated
   Labs / Radiology
   204 K/uL
   9.5 g/dL
   130 mg/dL
   0.7 mg/dL
   34 mEq/L
   5.2 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   28.4 %
   12.9 K/uL
        [image004.jpg]
                             [**2142-2-22**]  04:45 AM
                             [**2142-2-22**]  08:11 AM
                             [**2142-2-22**]  08:57 AM
                             [**2142-2-22**]  10:41 AM
                             [**2142-2-22**]  03:14 PM
                             [**2142-2-22**]  10:35 PM
                             [**2142-2-23**]  12:05 AM
                             [**2142-2-23**]  12:08 AM
                             [**2142-2-23**]  04:05 AM
                             [**2142-2-23**]  04:09 AM
   WBC
   12.9
   Hct
   28.4
   Plt
   204
   Cr
   0.8
   0.7
   TCO2
   32
   30
   29
   31
   32
   35
   38
   40
   Glucose
   130
   Other labs: PT / PTT / INR:13.3/27.4/1.1, ALT / AST:89/94, Alk Phos / T
   Bili:93/0.2, Differential-Neuts:77.0 %, Band:2.0 %, Lymph:10.0 %,
   Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.1 mmol/L, LDH:729 IU/L, Mg++:2.8 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   See graph above: P/F ratio has been rising very nicely above 300,
   suggesting resolution of ARDS. RSBI this morning was 16. Pt becoming
   agitated when off propofol; during morning rounds we decided to prepare
   for extubation (had already stopped tube feeds at 7 am in preparation
   for this). As pt
s sedation was turned down slightly she continued to
   become agitated and was moving the ETT out by biting and coughing; she
   was extubated after OG tube was suctioned, finding only gastric fluid
   with no tube feed contents. At last check was tolerating extubation
   well, would expect her to be able to stay off of vent for future, based
   on rapid recovery from ARDS.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Gram stain c/w strep pneumo at [**Hospital 120**] Hospital (where pt originally
   presented and then left AMA with a Z-pack); strep pneumo growing out in
   cultures at [**Hospital3 **] (where pt was first diagnosed with ARDS
   and from where she was transferred to us). Attempted to contact
   [**Name (NI) 120**] to get sensitivities, but pt was not found in their computer
   system this am; will need to continue to follow [**Hospital1 **] cultures for
   sensitivities. Continues on azithromycin, vancomycin and ceftriaxone;
   follow-up cultures; consider d/c vanco today based on likely community
   source, no prior reason to think she should have resistant strep.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pregnancy, [**Doctor Last Name 124**]/Ob closely following. This AM OB resident recommended
   betamethasone for fetal lung maturation, and anesthesia assessment for
   surgical suitability, followed by fetal monitoring if C-section becomes
   viable.
   NARCOTIC DEPENDENCE
   Currently weaning off versed and propofol; yesterday made transition
   from fentanyl to methadone IV. Ultimately will want to make transition
   to home dose of maintenance methadone; would spend today focusing on
   weaning sedative agents and tomorrow to switching to PO methadone and
   then to lowering dose of methadone after that.
   ICU Care
   Nutrition: Tube feeds while intubated; advance diet after extubation.
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-2-21**] 05:43 PM
   Arterial Line - [**2142-2-21**] 06:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU; OB floor this pm or tomorrow if stable

2142-02-23 09:12:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, Acute respiratory failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient switched from IV fentanyl to IV methadone. Difficulty reducing
   propofol because patient biting ETT. Has been on CPAP of 5 this
   morning. RSBI reportedly 16 this morning. Remains hemodynamically
   stable. Down to FIO2=0.4 with good oxygenation.
   Tube feeds held at 7 AM for potential extubation.
   Still febrile.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated and mechanically
   ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-22**] 07:30 PM
   Azithromycin - [**2142-2-22**] 10:00 PM
   Vancomycin - [**2142-2-23**] 08:18 AM
   Infusions:
   Midazolam (Versed) - 7.5 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2142-2-22**] 10:10 PM
   Pantoprazole (Protonix) - [**2142-2-22**] 11:00 PM
   Other medications:
   azithromycin, heparin SQ, vancomycin 1 gram [**Hospital1 **], colace, chlorhexidine,
   protonix, methylprednisolone 125 mg q8h, ceftriaxone 2 grams IV q24h,
   methadone 20 mg IV q6h, propofol at 20, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-23**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 76 (76 - 99) bpm
   BP: 124/74(94){109/65(82) - 134/100(110)} mmHg
   RR: 17 (10 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  3,250 mL
                                                                  1,045 mL
   PO:
             TF:
                                                                    126 mL
                                                                    124 mL
   IVF:
                                                                  2,920 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                  3,003 mL
                                                                    670 mL
   Urine:
                                                                  3,003 mL
                                                                    670 mL
   NG:
                                                                    205 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                    375 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 795 (773 - 884) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: 7.41/57/124/34/9
   Ve: 10.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Expiratory, diffuse, Wheezes : I/E=[**2-1**], diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Gravid
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   204 K/uL
   130 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   28.4 %
   12.9 K/uL
        [image002.jpg]
                             [**2142-2-22**]  08:11 AM
                             [**2142-2-22**]  08:57 AM
                             [**2142-2-22**]  10:41 AM
                             [**2142-2-22**]  03:14 PM
                             [**2142-2-22**]  10:35 PM
                             [**2142-2-23**]  12:05 AM
                             [**2142-2-23**]  12:08 AM
                             [**2142-2-23**]  04:05 AM
                             [**2142-2-23**]  04:09 AM
                             [**2142-2-23**]  06:59 AM
   WBC
   12.9
   Hct
   28.4
   Plt
   204
   Cr
   0.8
   0.7
   TCO2
   30
   29
   31
   32
   35
   38
   40
   37
   Glucose
   130
   Other labs: PT / PTT / INR:13.3/27.4/1.1, ALT / AST:89/94, Alk Phos / T
   Bili:93/0.2, Differential-Neuts:77.0 %, Band:2.0 %, Lymph:10.0 %,
   Mono:3.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:0.9 mmol/L, LDH:729 IU/L, Ca++:1.06 mmol/L,
   Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: some improvement in Right sided infiltreates. ETT too
   high.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
   [**3-3**] S. pneumonia PNA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   continues on azithromycin, vancomycin and ceftriaxone Tmax 100.8
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pregnancy, [**Doctor Last Name 124**]/Ob closely following
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   NARCOTIC ADDICTION
   Oxygenation improved. Patient with good RSBI this AM. Tube feeds
   stopped. Patient still has large dead space ventilation with PaCO2=57
   and VE=9L/min. The hypercapnia will facilitate getting her off the
   ventilator since it will reduce the total amount of breathing she needs
   to do for any given level of CO2 production. She also has a mild
   primary metabolic alkalosis, likely from her diuresis. I would diurese
   further now in anticipation of extubation.
   The CXR is slightly better. Patient remains febrile although WBC seems
   to be nearing normal range. Cultures non-revealing. Continue present
   antibiotics.
   Narcotic addition may be an issue as we try to reduce sedation and move
   to extubation. Patient now on IV methadone.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Comments: Tube feeds held for possible extubation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-2-21**] 05:43 PM
   Arterial Line - [**2142-2-21**] 06:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2142-02-24 07:06:00 Physician Resident Progress Note
Chief Complaint: ARDS with bil pneumococcal PNA
   24 Hour Events:
   -extubated yesterday without problem
   -continued to have altered mental status, agitated/restless
   -fetal monitoring had to be d/ced due to agitation.  started on Haldol
   (should have EKG this AM to check QTc), continued on IV methadone as
   mental status not good enough to change to po
   -started betamethasone for fetal lung maturity (will need second dose
   today)
   -ABG with 7.54/44/82 (metabolic alkalosis, no longer with resp.
   compensation)
   -          Tonic-Clonic Seizure in the AM lasting ~ 1 minute.  Gave
   ativan 2 mg IV x2.
 ARTERIAL LINE - STOP [**2142-2-23**] 12:30 PM
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-2-23**] 08:18 AM
   Ceftriaxone - [**2142-2-23**] 07:30 PM
   Azithromycin - [**2142-2-23**] 10:12 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-2-23**] 10:00 AM
   Furosemide (Lasix) - [**2142-2-23**] 10:00 AM
   Haloperidol (Haldol) - [**2142-2-23**] 03:00 PM
   Pantoprazole (Protonix) - [**2142-2-23**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-24**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 35.3
C (95.5
   HR: 87 (76 - 106) bpm
   BP: 158/83(103){149/77(96) - 174/93(115)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  1,875 mL
                                                                    256 mL
   PO:
             TF:
                                                                    124 mL
   IVF:
                                                                  1,451 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    550 mL
   Urine:
                                                                  3,475 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,625 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (795 - 6,000) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: 7.54/44/81.[**Numeric Identifier 253**]/28/12
   Ve: 3.9 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Well nourished, No acute distress, pregnant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic), 3/6 systolic murmur at RUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine crackles at bil bases, No(t) Wheezes : ), Good air entry
   throughout
   Abdominal: Soft, Non-tender, Bowel sounds present, pregnant
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, No(t) Oriented
   (to): , Movement: Purposeful, Tone: Not assessed, Confused, nonverbal.
   Moving all ext.
   Labs / Radiology
   226 K/uL
   10.4 g/dL
   125 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   143 mEq/L
   31.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2142-2-22**]  03:14 PM
                             [**2142-2-22**]  10:35 PM
                             [**2142-2-23**]  12:05 AM
                             [**2142-2-23**]  12:08 AM
                             [**2142-2-23**]  04:05 AM
                             [**2142-2-23**]  04:09 AM
                             [**2142-2-23**]  06:59 AM
                             [**2142-2-23**]  11:39 AM
                             [**2142-2-23**]  03:36 PM
                             [**2142-2-24**]  04:38 AM
   WBC
   12.9
   18.5
   Hct
   28.4
   31.3
   Plt
   204
   226
   Cr
   0.8
   0.7
   0.7
   0.5
   TCO2
   32
   35
   38
   40
   37
   39
   Glucose
   130
   116
   125
   Other labs: PT / PTT / INR:11.9/26.2/1.0, ALT / AST:89/94, Alk Phos / T
   Bili:93/0.2, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.2 mmol/L, LDH:729 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 Seizure: Concerning for ecclampsia.  AST and ALT were elevated with
   elevated urine protein.  CT head obtained and showed no pathology.  MRI
   obtained, and showed PRES.  Pt was then started on a labetolol drip and
   decision made to go for c-section.  C-section was not complicated, and
   Baby with reported APGAR=8 and brought to Children
s hospital.  Pt
   returned from OR intubated.
   -          f/u Neuro recs
   -          f/u ob recs
   -          continue magnesium gtt, with therapeutic range 4.8 to 8.4
   -          follow up pain service recs re: methadone
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP): continues on
   azithromycin and ceftriaxone Tmax 101.4. Currently intubated after
   C-Section.
   -          cont vent for now, attempt to wean and extubate in the AM
   -          continue azithromycin and ceftriaxone
 [**Last Name 121**] PROBLEM
 Pregnancy: As discussed above, pt is s/p c-section.
   -          f/u OB recs
 NARCOTIC WITHDRAWAL: continue Methadone 20 mg IV Q6.
   -          f/u pain service recs
   ICU Care
   Nutrition: NPO
   Glycemic Control:  FS QID
   Lines:
   20 Gauge - [**2142-2-23**] 11:30 PM
   RIJ Central Line- [**2142-2-24**]
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: ppi
   VAP:  ceftriaxone, azithromycin
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2142-02-24 08:50:00 Physician Attending Progress Note
Chief Complaint: Seizure/pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 year old female 29 weeks pregnant with presumed pneumonia/ARDS
   extubated yesterday but mental status remains depressed and had seizure
   this morning
   24 Hour Events:
 ARTERIAL LINE - STOP [**2142-2-23**] 12:30 PM
 FEVER - 101.4
F - [**2142-2-23**] 08:00 AM
   Extubated yesterday with post-ABG: 7.54/44/82
   agitated overnight, psych was consulted and felt ICU delerium and
   recommended haldol
 patient later had seizure
   At 7:18 AM, patient had 1 minute tonic-clonic seizure and given ativan.
   Neurology/pain service/ob-gyn consulted to see patient
   History obtained from Medical records
   Patient unable to provide history: mental status changes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-2-23**] 08:18 AM
   Ceftriaxone - [**2142-2-23**] 07:30 PM
   Azithromycin - [**2142-2-23**] 10:12 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-2-23**] 10:00 AM
   Furosemide (Lasix) - [**2142-2-23**] 10:00 AM
   Haloperidol (Haldol) - [**2142-2-23**] 03:00 PM
   Pantoprazole (Protonix) - [**2142-2-23**] 11:06 PM
   Other medications:
   hep sq
   methylprednisolone 125
   folic acid
   albuterol/atrovent
   methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-24**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 35.3
C (95.5
   HR: 118 (78 - 118) bpm
   BP: 132/79(85){132/77(85) - 174/100(115)} mmHg
   RR: 24 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  1,875 mL
                                                                    269 mL
   PO:
             TF:
                                                                    124 mL
   IVF:
                                                                  1,451 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    550 mL
   Urine:
                                                                  3,475 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,625 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (1,488 - 6,000) mL
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 95%
   ABG: 7.54/44/81.[**Numeric Identifier 253**]/28/12
   Ve: 3.9 L/min
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Not assessed, non-verbal
   Labs / Radiology
   10.4 g/dL
   226 K/uL
   125 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   143 mEq/L
   31.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2142-2-22**]  03:14 PM
                             [**2142-2-22**]  10:35 PM
                             [**2142-2-23**]  12:05 AM
                             [**2142-2-23**]  12:08 AM
                             [**2142-2-23**]  04:05 AM
                             [**2142-2-23**]  04:09 AM
                             [**2142-2-23**]  06:59 AM
                             [**2142-2-23**]  11:39 AM
                             [**2142-2-23**]  03:36 PM
                             [**2142-2-24**]  04:38 AM
   WBC
   12.9
   18.5
   Hct
   28.4
   31.3
   Plt
   204
   226
   Cr
   0.8
   0.7
   0.7
   0.5
   TCO2
   32
   35
   38
   40
   37
   39
   Glucose
   130
   116
   125
   Other labs: PT / PTT / INR:11.9/26.2/1.0, ALT / AST:89/94, Alk Phos / T
   Bili:93/0.2, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.2 mmol/L, LDH:729 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   1-       Seizure: DDx: pre-eclampsia , ? exacerbation by haldol, benzo
   withdrawal
   Plan: Ativan given for seizure and now post-ictal
             Ob-gyn consulted for R/O pre-eclampsia (check LFTS, urine
   protein)
             Hold haldol
             Magnesium IV
   2-       Mental Status Changes: Has been altered since extubation
   yesterday even prior to seizure. Could be toxic-metabolic,
   pre-eclampsia.
   Plan: Head CT scan, Neuro consult, MRI/MRV
   3-       Pneumonia: Strep pneumonia being treated azithro, ceftriaxone
   4-       Pregnancy: Had normal fetal heart tones post-seizure; ob-gyn
   following. Concern for pre-eclampsia
   Addendum: Developed hypertension requiring labetelol.  Head CT scan
   negative, MRI/MRV showed reversible posterior encephalopathy.  Protein
   in urine.  All of these findings are consistent with
   eclampsia/pre-eclampsia.  Discussed with ob-gyn and patient is to have
   an urgent C-section.  Started magnesium drip and labetolol drip.
   Disposition to OR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-2-23**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes (critically ill)

2142-02-25 08:42:00 Physician Attending Progress Note
Chief Complaint: Eclampsia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: See original H and P
   24 Hour Events:
   Went to OR for urgent C-section for eclampsia (seizures, elevated LFTs,
   protein, PRES on MRI).  C-section uncomplicated.  Remains intubated
   overnight on propofol with blood pressure well controlled without need
   of labetolol (needed drip yesterday prior to OR).  Also on Mg drip
 MAGNETIC RESONANCE IMAGING - At [**2142-2-24**] 12:15 PM
 MAGNETIC RESONANCE IMAGING - At [**2142-2-24**] 02:54 PM
   returned from MRI
 ARTERIAL LINE - START [**2142-2-24**] 05:00 PM
 MULTI LUMEN - START [**2142-2-24**] 08:33 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-2-23**] 08:18 AM
   Ceftriaxone - [**2142-2-24**] 09:57 PM
   Azithromycin - [**2142-2-24**] 10:36 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Med List reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-25**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 71 (62 - 109) bpm
   BP: 127/82(99){117/74(91) - 166/97(360)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  3,110 mL
                                                                    873 mL
   PO:
             TF:
   IVF:
                                                                  3,110 mL
                                                                    873 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    579 mL
   Urine:
                                                                  1,540 mL
                                                                    579 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    790 mL
                                                                    294 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 855 (800 - 855) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 15 cmH2O
   Plateau: 9 cmH2O
   SpO2: 97%
   ABG: 7.44/46/219/30/6
   Ve: 9 L/min
   PaO2 / FiO2: 547
   Physical Examination
   General Appearance: Well nourished, intubated, sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Intubated, sedated on propofol; when propofol discontinued
   was moving all extremities and no focal neuro findings.  Following
   simple commands
   Labs / Radiology
   9.0 g/dL
   243 K/uL
   124 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   17 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   22.2 K/uL
        [image002.jpg]
                             [**2142-2-23**]  03:36 PM
                             [**2142-2-24**]  04:38 AM
                             [**2142-2-24**]  11:51 AM
                             [**2142-2-24**]  12:24 PM
                             [**2142-2-24**]  07:04 PM
                             [**2142-2-24**]  07:38 PM
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
   WBC
   18.5
   19.5
   22.2
   Hct
   31.3
   30.5
   29.7
   27.0
   Plt
   [**Telephone/Fax (3) 289**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   39
   31
   32
   32
   32
   Glucose
   125
   127
   139
   142
   124
   Other labs: PT / PTT / INR:12.0/19.6/1.0, ALT / AST:314/161, Alk Phos /
   T Bili:67/0.3, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:681 IU/L, Ca++:6.6 mg/dL, Mg++:6.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   1)       Eclampsia: Based on seizures, high protein, LFTs, rising blood
   pressure, PRES on MRI -> patient went to OR for C-section for
   eclampsia.  Post-Op, BP improving
           Plan: Continue magnesium drip for 24 hours (ob-gyn following)
   2)       Seizures: consistent with eclampsia.
   Plan: Will obtain EEG while decreasing propofol on vent.  If no seizure
   activity or if patient following commands, then will extubate.
             After extubation, will continue continuous EEG for at least
   24-48 hours
             Neurology following
   3)    Respiratory Failure, Acute
    Plan:  Will extubate if responsive neurologically when propofol off.
   4)   Pneumonia
           Plan:  Continue Ceftriaxone (14 day course) and Azithromycin (5
   day course)
   5)       Opiate Dependence: on high dose of methadone at this time
   Plan:  Reduce dose of methadone and monitor
   6)       S/P C-section: Ob-gyn following; wound looks good.  Post-op
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: RIJ
   Arterial Line - [**2142-2-24**] 05:00 PM
   20 Gauge - [**2142-2-24**] 06:52 PM
   Multi Lumen - [**2142-2-24**] 08:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent:  35 (Critical Care)

2142-02-25 08:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2142-2-24**] 12:15 PM
 MAGNETIC RESONANCE IMAGING - At [**2142-2-24**] 02:54 PM
   returned from MRI
 ARTERIAL LINE - START [**2142-2-24**] 05:00 PM
 OR SENT - At [**2142-2-24**] 05:05 PM
 OR RECEIVED - At [**2142-2-24**] 06:47
   PM
 MULTI LUMEN - START [**2142-2-24**] 08:33 PM
   - Pt seized AM of [**2-24**].  Was given ativan 2 mg IV x2 and seizure
   resolved.
   - LFTS, Uric Acid, and Urine Protein where checked Q6hr.  The continued
   to rise throughout the day indicating a high likelihood of ecclampsia
   - BP also continued to rise throughout the day requiring a labetolol
   gtt (with placement of an A-line), also indicating a high likelyhood of
   ecclampsia
   - CT head was obtained, which showed no evidence of pathology
   - MRI of the brain with MRA and MRV with and without contrast was
   obtained, and showed findings c/w PRES.
   - Decision made to bring pt for C-Section to treat the ecclampsia.
   C-Section was without complications.  Child was born with an APGAR=8,
   and brought to [**Hospital3 290**].  Pt returned to the floor intubated
   on a magnesium gtt.
   - When pt returned to floor she had only 1 PIV.  A RIJ central line was
   placed
   - Magnesium gtt was continued.  Mg level @1AM was 6.5 (therapeutic
   range 4.8-8.4 per OB)
   - AM RSBI=16
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-2-23**] 08:18 AM
   Ceftriaxone - [**2142-2-24**] 09:57 PM
   Azithromycin - [**2142-2-24**] 10:36 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-25**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 71 (62 - 109) bpm
   BP: 127/82(99){117/74(91) - 166/97(360)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  3,110 mL
                                                                    874 mL
   PO:
             TF:
   IVF:
                                                                  3,110 mL
                                                                    874 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    579 mL
   Urine:
                                                                  1,540 mL
                                                                    579 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    790 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 855 (800 - 855) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 15 cmH2O
   Plateau: 9 cmH2O
   SpO2: 97%
   ABG: 7.44/46/219/30/6
   Ve: 9 L/min
   PaO2 / FiO2: 547
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   9.0 g/dL
   124 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.3 mEq/L
   17 mg/dL
   102 mEq/L
   136 mEq/L
   27.0 %
   22.2 K/uL
        [image002.jpg]
                             [**2142-2-23**]  03:36 PM
                             [**2142-2-24**]  04:38 AM
                             [**2142-2-24**]  11:51 AM
                             [**2142-2-24**]  12:24 PM
                             [**2142-2-24**]  07:04 PM
                             [**2142-2-24**]  07:38 PM
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
   WBC
   18.5
   19.5
   22.2
   Hct
   31.3
   30.5
   29.7
   27.0
   Plt
   [**Telephone/Fax (3) 289**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   39
   31
   32
   32
   32
   Glucose
   125
   127
   139
   142
   124
   Other labs: PT / PTT / INR:12.0/19.6/1.0, ALT / AST:314/161, Alk Phos /
   T Bili:67/0.3, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.3
   g/dL, LDH:681 IU/L, Ca++:6.6 mg/dL, Mg++:6.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Continues on azithromycin  and ceftriaxone; afebrile today. Respiratory
   status is improving, based on numbers this morning should tolerate
   extubation reasonably well.
 PREGNANCY
   Now s/p C-section, infant at Children
s. Appreciate [**Doctor Last Name 124**]/OB recs and
   f/u.
   ECLAMPSIA
   Keeping magnesium at high level (4.8-8.4) with mag drip; EEG today to
   r/o continued subclinical seizures.
   OPIATE DEPENDENCE
   Moving over to PO methadone when extubated; following pharm recs from
   prior on steps for titration.
   ICU Care
   Nutrition:
   Glycemic Control:  FS QID
   Lines:
   Arterial Line - [**2142-2-24**] 05:00 PM
   20 Gauge - [**2142-2-24**] 06:52 PM
   Multi Lumen - [**2142-2-24**] 08:33 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  vancomycin, ceftriaxone
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-02-26 07:56:00 Physician Resident Progress Note
Chief Complaint: pneumonia and eclampsia
   24 Hour Events:
   EEG was negative for seizure activity
   Extubated in the AM
   In early evening, had high blood pressures, got repeated doses of IV
   labetalol to only modest effect, got hydralazine which was more
   helpful; goal is SBP <140s-150s per OB note
   Multiple family members present and supporting; pt tearful most of the
   day
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-2-23**] 08:18 AM
   Ceftriaxone - [**2142-2-25**] 08:17 PM
   Azithromycin - [**2142-2-25**] 10:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no complaints
   Flowsheet Data as of  [**2142-2-26**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 70 (60 - 88) bpm
   BP: 131/80(102){116/71(92) - 164/107(125)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  2,330 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                  2,330 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,037 mL
                                                                    870 mL
   Urine:
                                                                  2,037 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    293 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Vt (Spontaneous): 535 (535 - 535) mL
   SpO2: 93%
   ABG: 7.50/41/155/30/8
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic, sleepy
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mucous membranes moist
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Wheezes : , Rhonchorous: ), good air movement b/l
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: mildly
   tender over site of c section
   Extremities: Right: Trace, Left: Trace, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, DTRs +2 throughout, no clonus, sleepy but responsive
   Labs / Radiology
   220 K/uL
   9.3 g/dL
   94 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   137 mEq/L
   27.5 %
   21.4 K/uL
        [image002.jpg]
                             [**2142-2-24**]  12:24 PM
                             [**2142-2-24**]  07:04 PM
                             [**2142-2-24**]  07:38 PM
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
                             [**2142-2-25**]  02:38 PM
                             [**2142-2-25**]  03:30 PM
                             [**2142-2-26**]  04:06 AM
   WBC
   19.5
   22.2
   21.0
   21.4
   Hct
   30.5
   29.7
   27.0
   26.2
   27.5
   Plt
   237
   243
   207
   220
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   TCO2
   32
   32
   32
   33
   Glucose
   127
   139
   142
   124
   121
   94
   Other labs: PT / PTT / INR:11.1/20.3/0.9, ALT / AST:740/325, Alk Phos /
   T Bili:68/0.3, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:976 IU/L, Ca++:6.4 mg/dL, Mg++:3.7 mg/dL, PO4:3.1 mg/dL
   CXR [**2-26**]:
   After extubation and removal of central venous access line, the
   lung parenchyma and cardiac silhouette show no relevant interval change
   .
   Assessment and Plan
   28yo woman admitted  at 28 weeks pregnant with respiratory failure and
   pneumonia who developed eclampsia, now s/p C section and recent
   extubation.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          No longer febrile, respiratory status improving
   -          s/p intubation for ARDS
   -          s/p 10-14 days of azithromycin and ceftriaxone; will
   discontinue antibiotics today and monitor
 Eclampsia
s/p emergent C section for seizures; s/p Mg gtt
   -          no further evidence of seizure activity
   -          no indication for long term anti-epileptic drugs per neuro
   -          proteinuria and edema should improve s/p delivery; BP
   control for SBP > 140 with hydralazine or labetalol
   -          appreciate [**Doctor Last Name 124**] OB recs and neuron recs
   # Asthma
possible contributor to poor respiratory status, but uncertain
   whether this played significant role
   -          taper prednisone
   # [**Name (NI) 367**]
unclear etiology, though would still consider possible
   overlap syndrome with eclampsia and HELLP despite not having low
   platelets
   -          check labs for evidence of hemolysis
   -          will check RUQ ultrasound
   -          send hepatitis serologies
   # Opiate Dependence
h/o oxycodone abuse, on methadone maintenance
   -          taper methadone back to oral dose now that she is extubated
   ICU Care
   Nutrition:  start regular diet
   Glycemic Control:  no insulin requirement
   Lines:  discontinue art line today
   Arterial Line - [**2142-2-24**] 05:00 PM
   20 Gauge - [**2142-2-24**] 06:52 PM
   Prophylaxis:
   DVT:  heparin SubQ
   Stress ulcer:  pantoprazole
   VAP:  s/p extubation [**2-25**]
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition: ICU for now

2142-02-26 10:31:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2142-2-25**] 09:33 AM
   setting up EEG
 EEG - At [**2142-2-26**] 12:27 AM
   started [**2-24**] am
 MULTI LUMEN - STOP [**2142-2-26**] 02:58 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-25**] 08:17 PM
   Azithromycin - [**2142-2-25**] 10:15 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2142-2-26**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Extubated
   Flowsheet Data as of  [**2142-2-26**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 65 (60 - 85) bpm
   BP: 164/97(123){116/71(92) - 164/97(124)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
             Total In:
                                                                  2,330 mL
                                                                     80 mL
   PO:
             TF:
   IVF:
                                                                  2,330 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,037 mL
                                                                    920 mL
   Urine:
                                                                  2,037 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    293 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.50/41/155/30/8
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: surgical scar - post partum
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Rash: back
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   220 K/uL
   94 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   17 mg/dL
   102 mEq/L
   137 mEq/L
   27.5 %
   21.4 K/uL
        [image002.jpg]
                             [**2142-2-24**]  12:24 PM
                             [**2142-2-24**]  07:04 PM
                             [**2142-2-24**]  07:38 PM
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
                             [**2142-2-25**]  02:38 PM
                             [**2142-2-25**]  03:30 PM
                             [**2142-2-26**]  04:06 AM
   WBC
   19.5
   22.2
   21.0
   21.4
   Hct
   30.5
   29.7
   27.0
   26.2
   27.5
   Plt
   237
   243
   207
   220
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   TCO2
   32
   32
   32
   33
   Glucose
   127
   139
   142
   124
   121
   94
   Other labs: PT / PTT / INR:11.1/20.3/0.9, ALT / AST:740/325, Alk Phos /
   T Bili:68/0.3, Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5
   g/dL, LDH:976 IU/L, Ca++:6.4 mg/dL, Mg++:3.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   continues on azithromycin, vancomycin and ceftriaxone Tmax 100.8
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pregnancy, [**Doctor Last Name 124**]/Ob closely following
   Eclampsia extubated successfully.  Mg++ has been discontinued.  LFTs
   continue to rise - could be manifestation of HELLP but plts remain in
   normal range so will check U/S.
   ARDS - still has abn'l gas exchange
   Methadone maintenance
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2142-2-24**] 05:00 PM
   20 Gauge - [**2142-2-24**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:  now extubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min

2142-02-27 07:43:00 Physician Resident Progress Note
28yo woman admitted  at 28 weeks pregnant with respiratory failure and
   pneumonia who developed eclampsia, now s/p C section and recent
   extubation.
   24 Hour Events:
   Discontinued antibiotics and started steroid taper.
   No evidence of hemolysis on labs
   RUQ ultrasound with sludge in gall bladder, otherwise unremarkable.
   Per Neuro, no indication for anti-epileptic drug
   ALT still increasing, but other LFTs have peaked; awaiting hepatitis
   serologies
   BP improved
   Tolerated regular diet
 ULTRASOUND - At [**2142-2-26**] 11:53 AM
   Liver and gallbladder US to check for ? fatty liver
 ARTERIAL LINE - STOP [**2142-2-26**] 05:00 PM
   SUBJECTIVE
   No complaints, occasional cough productive of yellow sputum. No SOB.
   Denies abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-25**] 08:17 PM
   Azithromycin - [**2142-2-25**] 10:15 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2142-2-27**] 02:50 AM
   Heparin SQ
   Other medications:
   Prednisone taper
   Methadone
   Protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2142-2-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 68 (58 - 83) bpm
   BP: 150/86(102){116/61(76) - 167/94(109)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
                  Total In:
                                                                    760 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    620 mL
   Urine:
                                                                  1,795 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,035 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: No(t) Normal), (S2: No(t) Normal), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R side, No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Tender: mild, no rigidity or
   guarding
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, DTRs brisk and symmetric
   Labs / Radiology
   208 K/uL
   9.4 g/dL
   73 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   21 mg/dL
   106 mEq/L
   141 mEq/L
   28.0 %
   17.9 K/uL
        [image002.jpg]
   Fingersticks: 92-132
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
                             [**2142-2-25**]  02:38 PM
                             [**2142-2-25**]  03:30 PM
                             [**2142-2-26**]  04:06 AM
                             [**2142-2-26**]  11:01 AM
                             [**2142-2-26**]  06:26 PM
                             [**2142-2-27**]  05:37 AM
   WBC
   22.2
   21.0
   21.4
   21.3
   18.3
   17.9
   Hct
   27.0
   26.2
   27.5
   28.1
   28.2
   28.0
   Plt
   243
   207
   220
   [**Telephone/Fax (3) 400**]
   Cr
   0.5
   0.4
   0.4
   0.5
   0.6
   0.5
   TCO2
   32
   32
   33
   Glucose
   142
   124
   121
   94
   91
   73
   Other labs: PT / PTT / INR:11.1/20.3/0.9, ALT / AST:715/183, Alk Phos /
   T Bili:68/0.3, Differential-Neuts:85.0 %, Band:Units: %
   Range: 0-5 %, Lymph:7.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:658 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   [**2-26**] RUQ U/S
   RIGHT UPPER QUADRANT ULTRASOUND:  Liver demonstrates normal
   echotexture,
   without any evidence of focal abnormalities.  The visualized portions
   of the pancreas are normal in appearance though distal body and tail
   are not
   well evaluated. There is no intra- or extra- hepatic biliary ductal
   dilatation. There is sludge/stones within the gallbladder, without any
   evidence of gallbladder dilatation or wall edema.
   Doppler evaluation of the liver was performed.  The main portal vein
   and its
   branches demonstrate normal hepatopetal flow and waveforms and
   patency.  The
   hepatic veins are patent with appropriate directional flow.  The
   hepatic
   artery demonstrates normal arterial waveforms.
   IMPRESSION:  Normal appearance of the liver.  Normal hepatic
   vasculature.
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          No longer febrile, respiratory status improving, s/p
   ceftriaxone and azithromycin.
   -          Maintaining adequate O2 sats on room air, monitor
 Eclampsia
s/p emergent C section for seizures; s/p Mg gtt
   -          no further evidence of seizure activity
   -          no indication for long term anti-epileptic drugs per neuro.
   Can D/C EEG
   -          *** PATIENT SHOULD NOT DRIVE FOR 6 MONTHS *** or for
   duration determined by neuro
   -          proteinuria and edema should improve s/p delivery; BP
   control for SBP > 140 with hydralazine or labetalol
   -          appreciate [**Doctor Last Name 124**] OB recs and neuron recs
   # Asthma
possible contributor to poor respiratory status, but uncertain
   whether this played significant role
   -          Continue prednisone taper
   # [**Name (NI) 367**]
unclear etiology, though would still consider possible
   overlap syndrome with eclampsia and HELLP despite not having low
   platelets. RUQ u/s unremarkable aside from some biliary sludging.
   Hemolysis workup shows normal Tbili, haptoglobin elevated (c/w acute
   illness), LDH elevated but not specific and has pna
   -          LFTs trending down, will follow
   -          Hepatitis serologies pending, though suspect viral hepatitis
   much less likely for the elevated LFTs now trending down
   # Opiate Dependence
h/o oxycodone abuse, on methadone maintenance
   -          taper methadone back to oral dose now that she is extubated
   # Hypertension
 BPs improved with decreased hydralazine requirement,
   will follow
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:  no insulin requirement
   Lines:
   20 Gauge - [**2142-2-24**] 06:52 PM
   Prophylaxis:
   DVT:  heparin SubQ
   Stress ulcer:  DC PPI
   VAP:  n/a
   Communication:  Comments: with family
   Code status: Full code
   Disposition: call out to floor

2142-02-27 11:31:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LFTs declining
   24 Hour Events:
 ULTRASOUND - At [**2142-2-26**] 11:53 AM
   Liver and gallbladder US to check for ? fatty liver
 ARTERIAL LINE - STOP [**2142-2-26**] 05:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-2-25**] 08:17 PM
   Azithromycin - [**2142-2-25**] 10:15 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2142-2-27**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-27**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 85 (58 - 85) bpm
   BP: 132/70(83){116/61(76) - 167/95(109)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.7 kg (admission): 86 kg
   Height: 65 Inch
                  Total In:
                                                                    760 mL
                                                                    720 mL
   PO:
                                                                    580 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                  1,220 mL
   Urine:
                                                                  1,795 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,035 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Post partum C section
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Rash: on back
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   208 K/uL
   73 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   21 mg/dL
   106 mEq/L
   141 mEq/L
   28.0 %
   17.9 K/uL
        [image002.jpg]
                             [**2142-2-24**]  09:18 PM
                             [**2142-2-25**]  01:16 AM
                             [**2142-2-25**]  05:12 AM
                             [**2142-2-25**]  05:29 AM
                             [**2142-2-25**]  02:38 PM
                             [**2142-2-25**]  03:30 PM
                             [**2142-2-26**]  04:06 AM
                             [**2142-2-26**]  11:01 AM
                             [**2142-2-26**]  06:26 PM
                             [**2142-2-27**]  05:37 AM
   WBC
   22.2
   21.0
   21.4
   21.3
   18.3
   17.9
   Hct
   27.0
   26.2
   27.5
   28.1
   28.2
   28.0
   Plt
   243
   207
   220
   [**Telephone/Fax (3) 400**]
   Cr
   0.5
   0.4
   0.4
   0.5
   0.6
   0.5
   TCO2
   32
   32
   33
   Glucose
   142
   124
   121
   94
   91
   73
   Other labs: PT / PTT / INR:11.1/20.3/0.9, ALT / AST:715/183, Alk Phos /
   T Bili:68/0.3, Differential-Neuts:85.0 %, Band:Units: %
   Range: 0-5 %, Lymph:7.0 %, Mono:5.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:275 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:658 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS - secondary to eclampsia. No need
   for anticonvulsants
 HEPATITIS OTHER
   rising LFTs, US of liver and galbladder done today, continue to monitor
   LFTs - declining now. Presumably this is HELLP.  Continuing to follow
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   continues on azithromycin, vancomycin and ceftriaxone Tmax 100.8,
   afebrile, antibiotics dc'd - etiol of ARDS remains obscure. I am still
   unconvinced this was bacterial PNA.  Slowly resolving but still has
   signif A-a gradient. Should have pulmonary f/u in 6 weeks
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pregnancy, [**Doctor Last Name 124**]/Ob closely following
   ICU Care
   Nutrition:
   Comments: eating now
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35